Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / codeine / epinephrine
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Stress echo ___

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS: 
___ year old females with metastatic melanoma (last chemo ___, pulmonary hypertension, asthma who presents with chest
pressure and tightness progressive over several days.

Over the 2 weeks, she has had progressive discomfort in the 
lower
left chest/left upper abdominal quadrant which is nonradiating,
worsens with exertion such as walking upstairs, it has been
associated with a feeling lightheaded when walking upstairs. She
also notes she has had this pain at rest. In addition to the
chest pressure, she has brief stabbing, fleeting pain under her
left breast and in epigastrum that she describes as similar to a
"labor pain". No heartburn, nausea, or vomiting. The pain is not
relieved by albuterol. She does not have cough or wheezing, but
when she does cough, pain is provoked. Pain not positional. She
describes her shortness of breath as improved over the past
several months and had been increasing her physical activity. No
recent URI or GI symptoms.

Advised to come to ED by pulmonologist due to concern of
exertional chest pain. Additionally, recent echo obtained by OP
pulmonologist who patient follows closely with for dyspnea 
showed
reduced EF from 60-->45% prompting concern for cardiomyopathy. 

In the ED initial vitals were:  
T 98.2  HR 65 BP 105/66 100% on RA

EKG:  NSR w/ rate ___, normal axis, submm ST elevation I, aVL, 
ST
depression lateral leads with TWI in V1. QT 430.

Labs/studies notable for:  
Trop <0.01
WBC 6.6
Hgb 11.3
Cr 0.9
Mg 1.8
INR 1.0

Patient was given:
ASA 324 mg 

Vitals on transfer:  ___ Temp: 97.4 PO BP: 111/72 R
Sitting HR: 56 RR: 17 O2 sat: 97% O2 delivery: Ra 

On the floor patient is anxious about knowing why her echo was
abnormal. She is having some of the sharp, stabbing, fleeting
chest pain at rest while sitting in bed. Her left arm feels sore
and tight. 

REVIEW OF SYSTEMS:  
Positive per HPI.  
Cardiac review of systems is notable for absence paroxysmal
nocturnal dyspnea, orthopnea, ankle edema, palpitations, 
syncope,
or presyncope.  

On further review of systems, denies fevers or chills. Denies 
any
prior history of stroke, TIA, deep venous thrombosis, pulmonary
embolism, bleeding at the time of surgery, cough, hemoptysis, 
black stools or red stools. Denies exertional buttock or calf 
pain. All of the other review of systems were
negative.  
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- No h/o of DM, HTN, HLD

2. CARDIAC HISTORY  
- Reduced EF 60-->45% from ___ to several days ago
 
3. OTHER PAST MEDICAL HISTORY 
- Metastatic melanoma:  
PET CT ___ w/o residual FDG avid disease.   
On ___, patient initiated on ___ ___, "Randomized
Phase II/III Study of Nivolumab plus Ipilimumab plus 
Sargramostim
versus Nivolumab plus Ipilimumab in Patients with Unresectable
Stage III or IV Melanoma." ___ Ms. ___ was taken off
the study for reported worsening arthralgia and fatigue.  She 
was
extremely symptomatic bilateral hip pain and significant 
fatigue.

She received 2 doses of combination therapy ipi/nivo and
developed a grade 3 rash for which treatment was held.  With
high-dose steroids the rash quickly resolved and she resumed
maintenance nivolumab alone on ___. CT scans ___
showed complete resolution of malignant lymphadenopathy 
- Pulmonary HTN- follows with pulm OP and most recent PFTs
normal. PA pressure on echo mildly increased.
- Polycystic kidneys per pt report.
- Arthritis of low back, hips

 
Social History:
___
Family History:
Father died of stroke in ___
Mother died of brain tumor age ___
No known MI, arrhythmias in family.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=====================
VS:   ___ Temp: 97.4 PO BP: 111/72 R Sitting HR: 56 
RR:
17 O2 sat: 97% O2 delivery: Ra 
GENERAL: Well developed, well nourished middle aged woman, 
mildly
anxious. Husband at bedside. Oriented x3. Mood, affect
appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP of 8-10 cm lying flat.  No carotid bruits.
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs,
or gallops. no thrills or lifts. Lower sternum mildly tender to
palpation.
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-distended, +BS. Tender over RUQ>LUQ as well 
as
epigastrum. No rebound tenderness. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSICAL EXAM
======================
GENERAL: Well developed, well nourished middle aged woman, 
mildly
anxious. Husband at bedside. Oriented x3. Mood, affect
appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP of 8-10 cm lying flat.  No carotid bruits.
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs,
or gallops. no thrills or lifts. Lower sternum mildly tender to
palpation.
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-distended, +BS. Tender over RUQ>LUQ as well 
as
epigastrum. No rebound tenderness. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

 
Pertinent Results:
==================
ADMISSION LABS
==================
___ 04:02PM BLOOD WBC-6.6 RBC-3.55* Hgb-11.3 Hct-33.2* 
MCV-94 MCH-31.8 MCHC-34.0 RDW-11.9 RDWSD-40.7 Plt ___
___ 04:02PM BLOOD Neuts-79.0* Lymphs-15.7* Monos-4.1* 
Eos-0.2* Baso-0.5 Im ___ AbsNeut-5.23 AbsLymp-1.04* 
AbsMono-0.27 AbsEos-0.01* AbsBaso-0.03
___ 04:02PM BLOOD Plt ___
___ 04:24PM BLOOD ___ PTT-29.0 ___
___ 04:02PM BLOOD Glucose-125* UreaN-18 Creat-0.9 Na-143 
K-4.4 Cl-106 HCO3-24 AnGap-13
___ 04:02PM BLOOD Calcium-9.1 Phos-3.0 Mg-1.8

===========
IMAGING
===========
___ CXR
Heart is normal in size.  Mediastinal and hilar contours appear 
within normal limits.  There is no pleural effusion or 
pneumothorax.  Lungs appear clear.  Left hemidiaphragm is again 
slightly elevated relative to the right.  There is no pleural 
effusion or pneumothorax.  Mild degenerative changes again 
affect midthoracic interspaces. 
  
IMPRESSION:    
No evidence of acute cardiopulmonary disease. 

___ Stress Echo
Stress Conclusion: Good functional exercise capacity for age and 
gender. Ischemic ECG changes with anginal pain. No 2D 
echocardiographic evidence of inducible ischemia to achieved 
treadmill stress. Normal resting blood pressure with a normal 
blood pressure and a normal heart rate respose to achieved 
treadmill stress. Mild mitral regurgitation at rest. Moderate 
tricuspid regurgitration at rest. Mildly increased pulmonary 
artery systolic pressure at rest.

Indication: This ___ year-old female with heart failure with 
reduced ejection fraction LVEF 45%) and metastatic melanoma was 
referred for a stress test for evaluation of anginal pain.

Medications: heparin 5000 unit SC BID, Albuterol inh, 
levothyroxine 50 mcg daily.

Type of stress/symptoms: The patient had no symptoms at 
rest/prior to stress. The patient exercised on a modified ___ 
treadmill (3 min stages) protocol for 11 min 0 sec ___ METS) 
representing a good exercise capacity for age and gender. The 
test was stopped due to fatigue. In response to stress, the 
patient had anginal type pain ___ progressive central chest 
pressure, increased to ___ at near peak exercise) beginning at 
7.8 min of exercise (heart rate 127bpm; systolic blood pressure 
120mmHg)that resolved at 9.0 min (heart rate 81bpm; systolic 
blood pressure (98mmHg) of recovery.

Hemodynamics: At rest, the blood pressure was 100/58 mmHg and 
the heart rate was 72 bpm. In response to stress, the heart rate 
increased to 148 bpm (89 % APMHR) with a peak systolic blood 
pressure of 130mmHg (peak rate-pressure product = ___.

ECG: The resting ECG showed sinus rhythm and no STT wave 
changes. The stress ECG showed ischemic changes with 1.0-2.0 mm 
horizontal/slow upsloping STD in the inferolateral leads, 
returned to baseline by 10
minutes post-exercise.

Rest Echo: Resting echo images demonstrated normal left 
ventricular wall thicknesses with a normal cavity size. There is 
normal regional left ventricular systolic function. Overall left 
ventricular systolic function is normal. Quantitative/biplane 
resting left ventricular end-diastolic volume was 76 mL with an 
ejection fraction of 67 %. Transmitral and tissue Doppler 
suggest a normal left ventricular filling pressure (PCWP less
than12mmHg). The right ventricular cavity size is normal with 
normal free wall motion. There is no pericardial effusion. 
Doppler demonstrates no aortic valve stenosis, no aortic 
regurgitation, mild [1+] mitral
regurgitation, moderate tricuspid regurgitation and no resting 
left ventricular outflow tract gradient. The resting estimated 
pulmonary artery systolic pressure is mildly increased.

Stress Echo: Echo images were acquired within 38 sec post stress 
at heart rates of 142 to 125 bpm. These demonstrated appropriate 
augmentation of all left ventricular segments. There was 
appropriate augmentation
of right ventricular free wall motion.

==============
DISCHARGE LABS
==============
___ 06:29AM BLOOD WBC-6.6 RBC-3.34* Hgb-10.3* Hct-31.6* 
MCV-95 MCH-30.8 MCHC-32.6 RDW-12.3 RDWSD-42.5 Plt ___
___ 06:29AM BLOOD Glucose-86 UreaN-16 Creat-0.7 Na-145 
K-4.1 Cl-109* HCO3-24 AnGap-12
___ 06:29AM BLOOD Calcium-8.6 Phos-4.1 Mg-1.8
 
Brief Hospital Course:
========
SUMMARY
========
___ year old females with history of metastatic melanoma (last 
chemo ___, last PET scan neg for mets), pulmonary 
hypertension, asthma who presents with chest pressure and 
tightness progressive over several days, found to have mildly 
reduced EF on recent TTE, troponins neg x2, and normal ECG 
admitted to ___ for further cardiac evaluation.

CORONARIES: unknown
PUMP: 45% EF from 60% in ___
RHYTHM: NSR

=============== 
ACTIVE ISSUES: 
=============== 
#Chest pain, epigastric pain
Patient presented with intermittent sternal and lower left chest 
pain over past several days, worse with exertion, but also 
occurs at rest. The chest pain is reproducible and exam and 
pleuritic in nature, particularly in the left lower chest. 
Patient reported symptoms to her pulmonologist, who recommended 
evaluation in the ED especially with recent TTE showing new 
reduced EF. In the ED, Initial EKG with submm STE in I, aVL, and 
sub-mm STD in precordial leads; however troponin negative x2 in 
ED. She was given full dose ASA in ED but heparin gtt was not 
started. She underwent a stress echo during this admission which 
showed a NORMAL resting EF of 67% that appropriately augmented 
with exercise. On the ECG portion of the test, there was 
ischemic changes with 1.0-2.0 mm horizontal/slow upsloping STD 
in the inferolateral leads, returned to baseline by 10 minutes 
post-exercise. These changes corresponded with mild substernal 
chest pressure that increased with exercise. Given normal echo 
portion of exam (rules out left main or 3VD) and non-anginal 
nature of chest pain on admission (reproducible in nature), 
decision was made not to pursue cardiac cath at this time due to 
low suspicion for CAD. 

In terms of etiology of chest pain, no GERD symptoms and LFTs, 
lipase negative making GI cause unlikely. EKG not consistent 
with pericarditis. Given reproducibility on exam, felt most 
likely pain was due to costochondritis and patient started on 
Tylenol for pain. 

#Mildly reduced EF
Coronaries are unknown and patient had echo that showed recent 
reduction in EF to 45% from 60% in ___. No effusion seen on 
echo. Patient previous on chemo for metastatic melanoma and was 
on clinical trial with Nivolumab plus Ipilimumab. Considered 
cardiomyopathy associated with chemotherapy; however time course 
is not consistent as patient discontinued tx in ___ and had 
normal EF in ___. She underwent a stress echo during this 
admission which showed a NORMAL resting EF of 67% that 
appropriately augmented with exercise. Given normal EF on this 
echo, it is likely that the prior 45% EF on last echo was likely 
over read and actual EF is actually >60%.

================ 
CHRONIC ISSUES: 
================ 
#Dyspnea
Follows with pulmonology for dyspnea, thought to be 
multifactorial including asthma, deconditioning. Continued home 
inhalers and has PFTs and pulmonary f/u scheduled as outpatient.

#Metastatic melanoma: Imaging reveals complete response since 
___. Will continue active surveillance per heme/onc notes, no 
plans for treatment unless there is evidence of recurrence.

#Adrenal insufficiency: continued home hydrocortisone 15 mg AM, 
5mg ___

#Hypothyroidism: contintued home levothyroxine 50mcg daily. 

===================
TRANSITIONAL ISSUES
===================
[] Suspected costochondritis: Patient discharged on tylenol to 
take PRN for chest pain. Low concern for CAD given normal echo 
portion of stress test. If has persistent chest discomfort that 
is no longer reproducible and more anginal in nature, would 
consider for repeat stress and if positive would consider for 
cardiac cath.

# CODE STATUS: Full (confirmed) 
# CONTACT: Yes 
Name of health care proxy: ___ 
Phone number: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrocortisone 15 mg PO QAM 
2. Hydrocortisone 5 mg PO QPM 
3. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
4. Levothyroxine Sodium 50 mcg PO DAILY 
5. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
6. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezes 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezes  
3.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
4.  Hydrocortisone 15 mg PO QAM  
5.  Hydrocortisone 5 mg PO QPM  
6.  Levothyroxine Sodium 50 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
=================
PRIMARY DIAGNOSIS
=================
Costochondritis

===================
SECONDARY DIAGNOSIS
===================
Pulmonary hypertension
Asthma
History of melanoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 
 
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you were having chest pain and had a 
recent echocardiogram that showed your heart was not pumping 
normally
 
WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You had an EKG and heart muscle enzymes checked which showed 
you did NOT have a heart attack.
- You underwent a test called a stress echocardiogram which 
checks your heart pumping function before and after exercise. 
This test showed NORMAL pumping function of your heart before 
and after exercise.
- You did have some chest discomfort during your exercise stress 
test and your EKG did show some EKG changes, however, your heart 
pump function was excellent and it was felt these changes likely 
did not represent a heart blockage.
- You were given tylenol for your chest pain as it the pain was 
thought most likely due to inflammation of the cartilage in your 
rib cage called costochondritis.

WHAT SHOULD I DO WHEN I GO HOME?  
================================ 
- You should continue to take all your medications as prescribed
- Please keep your upcoming appointment with Dr. ___ 
(___).
- Continue to take the tylenol as needed for your chest pain for 
___ weeks. 
- Please follow-up with your primary care physician and 
cardiologist as indicated below.
 
Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  

 
Followup Instructions:
___